US08222266B2
Preparation 22: 1-(4-Chloro-butyl)-4-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-1H-pyrimidin-2-one (Prep22)
To a solution of 4-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-1H-pyrimidin-2-one (232 mg, 0.92 mmol) in dry DMF (18 ml), 60% NaH (47 mg, 1.19 mmol) was added portionwise under inert atmosphere. After heating the mixture at 100° C. for 1 hour, 1-bromo-4-chloro-butane (137 μl 1.19 mmol) was added and the mixture was stirred overnight at room temperature. Water was added and the mixture extracted with diethyl ether. The organic layer was dried (Na2SO4) and evaporated. The residue purified by flash chromatography with hexane-ethyl acetate (8-2) to give 123 mg of the title compound (39% yield).

reactant | 4-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-1H-pyrimidin-2-one | 0.92 mmol, 232 mg | FC1(OC2=C(O1)C=CC=C2C2=NC(NC=C2)=O)F | C11H6F2N2O3
reactant | NaH | 1.19 mmol, 47 mg | [H-].[Na+]
reactant | 1-bromo-4-chloro-butane | 1.19 mmol, 137 μl | BrCCCCCl | C4H8BrCl
reactant | Water | O | H2O
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
product | 1-(4-Chloro-butyl)-4-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-1H-pyrimidin-2-one | 123 mg, 39% yield | ClCCCCN1C(N=C(C=C1)C1=CC=CC=2OC(OC21)(F)F)=O | C15H13ClF2N2O3
